US05308820
The carbobenzoxy-(S)-valine cyclohexylamide (0.33 g, 1 mmol) was dissolved in methanol (30 ml) and the solution was stirred at room temperature for 3 hours in the presence of 5% palladium-carbon (30 mg) under a hydrogen gas atmosphere. After the reaction was over, the palladium-carbon catalyst was filtered off to obtain a colorless solution. To this solution was added 3-phenylsalicylaldehyde (0.22 g, 1.1 mmol). This solution was stirred at room temperature for 24 hours and concentrated under reduced pressure to obtain yellow solids. These solids were subjected to silica gel column chromatography (eluent; hexane:ethyl acetate=5:1) to obtain 0.29 g (76%) of the desired N-(3-phenylsalicylidene)-(S)-valine cyclohexylamide which was further recrystallized from ether. m.p. 87.0°-89.5° C. [α]26D +158.3° (c 1.02, CHCl3)

reactant | carbobenzoxy-(S)-valine cyclohexylamide | 1 mmol, 0.33 g | C1(CCCCC1)NC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O | C19H28N2O3
reactant | 3-phenylsalicylaldehyde | 1.1 mmol, 0.22 g | C1(=CC=CC=C1)C1=C(C(C=O)=CC=C1)O | C13H10O2
reactant | hexane | CCCCCC | C6H14
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 30 ml | CO | CH4O
catalyst | palladium-carbon | [C].[Pd]
catalyst | palladium-carbon | 30 mg | [C].[Pd]
product | N-(3-phenylsalicylidene)-(S)-valine cyclohexylamide | 0.29 g, 76% | C1(CCCCC1)NC([C@@H](N=CC=1C(O)=C(C=CC1)C1=CC=CC=C1)C(C)C)=O | C24H30N2O2
